US07615568B2
A. Methyl 2-hydroxy-4-(propylthio)benzoate
Using a procedure analogous to Example 66-A, methyl 4-fluoro-2-(methoxymethoxy)benzoate and potassium propanethiolate gave the title compound (6.1 g, 55%).

reactant | methyl 4-fluoro-2-(methoxymethoxy)benzoate | FC1=CC(=C(C(=O)OC)C=C1)OCOC | C10H11FO4
reactant | potassium propanethiolate | C(CC)[S-].[K+]
product | Methyl 2-hydroxy-4-(propylthio)benzoate | 6.1 g, 55% | OC1=C(C(=O)OC)C=CC(=C1)SCCC | C11H14O3S
